US04996234
Step 1: Methyl 2-(4-fluorophenyl)-4-oxo-6,6-dimethylcyclohex-2-en-1-carboxylate
A solution of methyl 4-fluorobenzoylacetate (20.03 g, 97 mmoles), mesityl oxide (14.58 g, 0.145 moles) and borontrifluoride etherate (13.77 g, 97 mmoles) was kept at 0° C. for 3 days and diluted with ether and saturated NaHCO3. The organic layer was washed with brine and dried (MgSO4). Removal of the volatiles in vacuo provided a residue which was diluted with 200 ml anhydrous methanol and 20 ml of Triton-B. The mixture was heated at reflux 2 hours, cooled, acidified with aqueous HCl and extracted with ether. The organic layers were washed with aqueous HCl, water and brine and dried (MgSO4). Removal of the volatiles in vacuo provided a residue which was purified by HPLC using 8% ethyl acetate in hexanes as the eluent. Concentration in vacuo of the product-rich fractions provided 14.9 g of the oily product.

reactant | methyl 4-fluorobenzoylacetate | 97 mmoles, 20.03 g | FC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9FO3
reactant | mesityl oxide | 0.145 moles, 14.58 g | O=C(C)C=C(C)C | C6H10O
reactant | borontrifluoride etherate | 97 mmoles, 13.77 g | B(F)(F)F.CCOCC
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | Methyl 2-(4-fluorophenyl)-4-oxo-6,6-dimethylcyclohex-2-en-1-carboxylate | 14.9 g | FC1=CC=C(C=C1)C=1C(C(CC(C1)=O)(C)C)C(=O)OC | C16H17FO3
